US09120749B2
1-(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(2-(piperazin-1-yl)pyrimidin-5-ylamino)quinolin-3-yl)ethanone
Following procedure A-2 tert-butyl 4-(5-(3-acetyl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-ylamino)pyrimidin-2-yl)piperazine-1-carboxylate (50 mg, 0.084 mmol) was treated with TFA (2 mL) to afford the desired product (11 mg, 26%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.29 (s, 1H), 8.55 (s, 2H), 8.23 (dd, J=11, 2 Hz, 1H), 8.02 (m, 2H), 7.12 (m, 2H), 4.21 (t, J=10 Hz, 4H), 3.35 (t, J=10.5 Hz, 4H) 2.80 (s, 3H); ESI MS m/z 493, [C25H22ClFN6O2+H]+; HPLC 99.0% (AUC), tR=9.90 min.

reactant | tert-butyl 4-(5-(3-acetyl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-ylamino)pyrimidin-2-yl)piperazine-1-carboxylate | 0.084 mmol, 50 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)O)Cl | C30H30ClFN6O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(2-(piperazin-1-yl)pyrimidin-5-ylamino)quinolin-3-yl)ethanone | 11 mg, 26% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NC(=NC1)N1CCNCC1 | C25H22ClFN6O2
